US06552056B2
A solution of 3,4-dichloro-5-isothiazolecarboxylic acid chloride (2.1 g) in dichloro-methane (5 ml) was added drop by drop to a solution of 2-amino-3-methyl-butyronitrile (1.2 g) and triethylamine (1.5 g) in dichloromethane (10 ml) under ice cooling. After the addition was completed, the temperature was brought to room temperature, and the mixture was stirred for further 4 hours. The reaction mixture was then washed with water and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the remaining residue was purified by silica gel column chromatography (eluent: chloroformn) to obtain N-(1-cyano-2-methyl-propyl)-3,4-dichloro-5-isothiazolecarboxamide (1.5 g) (mp 120-121° C.).

reactant | 3,4-dichloro-5-isothiazolecarboxylic acid chloride | 2.1 g | ClC1=NSC(=C1Cl)C(=O)Cl | C4Cl3NOS
reactant | 2-amino-3-methyl-butyronitrile | 1.2 g | NC(C#N)C(C)C | C5H10N2
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloro-methane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(1-cyano-2-methyl-propyl)-3,4-dichloro-5-isothiazolecarboxamide | 1.5 g | C(#N)C(C(C)C)NC(=O)C1=C(C(=NS1)Cl)Cl | C9H9Cl2N3OS
